US07459567B2
To a solution containing methyl [4-(2-chlorophenyl)-2-(4-hydroxyphenyl)thien-3-yl]acetate (0.50 g, 1.40 mmol) and 4′-fluoroacetophenone (0.195 g, 1.40 mmol) in DMA (5 mL) was added K2CO3 (0.211 g, 1.53 mmol). The solution was heated to reflux overnight. The solvent was removed and the resulting solid was partitioned between CHCl3 and H2O. The CHCl3 was dried (MgSO4) and the solvent removed to yield methyl [2-[4-(4-acetylphenoxy)phenyl]-4-(2-chlorophenyl)thien-3-yl]acetate (0.41 g) as a white solid.

reactant | methyl [4-(2-chlorophenyl)-2-(4-hydroxyphenyl)thien-3-yl]acetate | 1.40 mmol, 0.50 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)O)CC(=O)OC | C19H15ClO3S
reactant | 4′-fluoroacetophenone | 1.40 mmol, 0.195 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | K2CO3 | 1.53 mmol, 0.211 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | methyl [2-[4-(4-acetylphenoxy)phenyl]-4-(2-chlorophenyl)thien-3-yl]acetate | 0.41 g | C(C)(=O)C1=CC=C(OC2=CC=C(C=C2)C=2SC=C(C2CC(=O)OC)C2=C(C=CC=C2)Cl)C=C1 | C27H21ClO4S
